US04402972
3.4 g of dicyclohexylcarbodiimide were added to a mixture of 4 g of tert.butyl (1R,cis) 2,2-dimethyl-3-(2-carboxyethynyl)-cyclopropane-carboxylate, 40 ml of methylene chloride and 6 g of 4-dimethylamino-pyridine and after stirring under an inert atmosphere for 30 minutes, 4 ml of a 1-1 n-butanol-methylene chloride mixture were added to the mixture over 5 minutes. The mixture was stirred at room temperature for 3 hours and was filtered. The filtrate was evaporated to dryness under reduced pressure and the residue was chromatographed over silica gel. Elution with a 9-1 cyclohexane-ethyl acetate mixture yielded 4.7 g of tert.-butyl (1R,cis) 2,2-dimethyl-3-(n-butoxycarbonylethynyl)-cyclopropane-carboxylate.

reactant | dicyclohexylcarbodiimide | 3.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | tert.butyl (1R,cis) 2,2-dimethyl-3-(2-carboxyethynyl)-cyclopropane-carboxylate | 4 g | CC1([C@@H]([C@@H]1C#CC(=O)O)C(=O)OC(C)(C)C)C | C13H18O4
reactant | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylamino-pyridine | 6 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | n-butanol methylene chloride | C(CCC)O.C(Cl)Cl
product | tert.-butyl (1R,cis) 2,2-dimethyl-3-(n-butoxycarbonylethynyl)-cyclopropane-carboxylate | 4.7 g | CC1([C@@H]([C@@H]1C#CC(=O)OCCCC)C(=O)OC(C)(C)C)C | C17H26O4
